US08865712B2
m) 5-Chloro-pyridine-2-carboxylic acid [6-(3-fluoromethyl-5-thioxo-morpholin-3-yl)-pyridin-2-yl]-amide
To a solution of 5-chloro-pyridine-2-carboxylic acid [6-(3-fluoromethyl-5-oxo-morpholin-3-yl)-pyridin-2-yl]-amide (0.24 g, 0.658 mmol) in THF (10.0 ml), Lawesson's reagent (0.798 g, 1.974 mmol) was added at rt and heated at reflux temperature for 24 h. Reaction mass was concentrated under reduced pressure. The crude compound was directly purified by column chromatography using 23% ethyl acetate in hexane to furnish title compound as off-white solid. Yield=0.19 g (72% [2 steps]). TLC (50% ethyl acetate in hexane) Rf=0.71; LCMS: RtH8=1.578, [M+1]+=381.1 and 382.9.

reactant | 5-chloro-pyridine-2-carboxylic acid [6-(3-fluoromethyl-5-oxo-morpholin-3-yl)-pyridin-2-yl]-amide | 0.658 mmol, 0.24 g | FCC1(NC(COC1)=O)C1=CC=CC(=N1)NC(=O)C1=NC=C(C=C1)Cl | C16H14ClFN4O3
reactant | Lawesson's reagent | 1.974 mmol, 0.798 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 10.0 ml | C1CCOC1 | C4H8O
product | 5-Chloro-pyridine-2-carboxylic acid [6-(3-fluoromethyl-5-thioxo-morpholin-3-yl)-pyridin-2-yl]-amide | FCC1(NC(COC1)=S)C1=CC=CC(=N1)NC(=O)C1=NC=C(C=C1)Cl | C16H14ClFN4O2S
